US04475944
2-(1,3,4-Oxadiazol-2-yl)phenyl isocyanatosulfonate
By the procedure of Example 1, 7.1 g of chlorosulfonyl isocyanate was added to a suspension containing 8.1 g of 2-(1,3,4-oxadiazol-2-yl)phenol [prepared by the procedure of J. Maillard et al., Bull. Soc. Chim. France, 3, 529 (1961)] in 125 ml of dry toluene. The reaction mixture was stirred at 25° C. for 1 hour, then heated at 100° to 110° C. for about 0.5 hour. The resulting suspension containing a viscous oil was cooled to 25° C., filtered, and the filtrate was concentrated in vacuo to yield 8 g of the title compound as a viscous, crude oil. The IR spectrum showed an isocyanate absorption at 2220 cm-1.

reactant | chlorosulfonyl isocyanate | 7.1 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 2-(1,3,4-oxadiazol-2-yl)phenol | 8.1 g | O1C(=NN=C1)C1=C(C=CC=C1)O | C8H6N2O2
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1,3,4-Oxadiazol-2-yl)phenyl isocyanatosulfonate | 8 g | N(=C=O)S(=O)(=O)OC1=C(C=CC=C1)C=1OC=NN1 | C9H5N3O5S
